US07371751B2
1-(4-Chloro-3-methoxyphenyl)-thiourea
Benzoyl isothiocyanate (8.8 mL, 64 mmol) was added dropwise to a solution of 4-chloro-3-methoxy-benzenamine (10 g, 63 mmol) in 160 mL THF. The mixture was stirred at room temperature for 40 minutes, volatiles were removed and the residue was dissolved in 400 mL methanol. A solution of potassium carbonate (26.3 g, 190 mmol) in 200 mL water was added and the mixture was stirred at room temperature for 90 minutes. The tide product (13.5 g, 98%) precipitated after removal of 450 mL of the solvents.

reactant | Benzoyl isothiocyanate | 64 mmol, 8.8 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 4-chloro-3-methoxy-benzenamine | 63 mmol, 10 g | ClC1=C(C=C(C=C1)N)OC | C7H8ClNO
reactant | potassium carbonate | 190 mmol, 26.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 1-(4-Chloro-3-methoxyphenyl)-thiourea | ClC1=C(C=C(C=C1)NC(=S)N)OC | C8H9ClN2OS
